US08110688B2
Synthesis of ethyl [2-(1-ethoxyethoxy)-6-methoxyphenyl]acetate
854.0 g of 1-(1-ethoxyethoxy)-3-methoxybenzene (content: 717.4 g (3.66 mol)) was put into a 20 L reactor under a nitrogen atmosphere and rinsed in with 7174 mL of tetrahydrofuran and the mixture was stirred. A coolant which was set to 4° C. was circulated through the jacket of the reactor and 1156 g (4.41 mol) of n-butyllithium [2.71 M, n-hexane solution] was added dropwise for 41 minutes, and the reaction mixture was stirred at the same temperature for about 1.5 hours. The coolant temperature was set to −20° C., and after it was confirmed that the mixture's temperature lowered below −10° C., 417.8 g (2.19 mol) of copper (I) iodide was added portionwise divided into three to the reaction mixture and the reaction mixture was stirred at the same temperature for about 14 hours. The coolant temperature was changed to −90° C. and 702.1 g (4.20 mol) of ethyl bromoacetate was added dropwise to the reaction mixture over 26 minutes and rinsed in with 10 mL of tetrahydrofuran. After the dropwise addition was completed, the reaction mixture was stirred for 44 minutes, and the liquid cooling temperature was changed to −35° C. and the reaction mixture was further stirred for about 1.8 hours. The coolant temperature was changed to −20° C., and the reaction mixture was stirred for one hour after the time point when temperature of the mixture exceeded −20° C. and progress of the reaction was confirmed by HPLC. 1435 mL of 28% ammonium hydroxide solution was added to the reaction mixture at the same temperature for about 30 minutes and the coolant temperature was changed to 25° C. The reaction mixture was added and extracted with 7174 mL of toluene and the organic layer was washed with 1440 mL of 28% ammonium hydroxide solution and 1435 mL×3 water sequentially. The obtained organic layer was added with 127 mL (0.73 mol) of N,N-diisopropylethylamine and concentrated in vacuo to afford a pale orange oil containing the title compound.

reactant | 1-(1-ethoxyethoxy)-3-methoxybenzene | 3.66 mol, 854.0 g | C(C)OC(C)OC1=CC(=CC=C1)OC | C11H16O3
reactant | n-butyllithium | 4.41 mol, 2.71 M, 1156 g | C(CCC)[Li]
reactant | ethyl bromoacetate | 4.20 mol, 702.1 g | BrCC(=O)OCC | C4H7BrO2
reactant | N,N-diisopropylethylamine | 0.73 mol, 127 mL | C(C)(C)N(C(C)C)CC | C8H19N
catalyst | copper (I) iodide | 2.19 mol, 417.8 g | [Cu]I
product | ethyl [2-(1-ethoxyethoxy)-6-methoxyphenyl]acetate | Yield: 96.0% | C(C)OC(C)OC1=C(C(=CC=C1)OC)CC(=O)OCC | C15H22O5
